US07776864B2
Step 2: 4-(3-Ethyl-6-phenylpyrazolo[1,5-a]pyrimidin-5-yl)benzaldehyde
275 mg 4-(6-phenyl-3-vinylpyrazolo[1,5-a]pyrimidin-5-yl)benzaldehyde is dissolved in 10 ml THF and 10 ml ethanol. Pd/C (10% w/w) is added and stirred under H2-atmosphere at room temperature for 1.5 h. The mixture is filtrated over kieselgur. The filtrate is concentrated and the residue is purified by chromatography on silica gel (dichloromethane/ethyl acetate) to yield the desired compound.

reactant | 4-(6-phenyl-3-vinylpyrazolo[1,5-a]pyrimidin-5-yl)benzaldehyde | 275 mg | C1(=CC=CC=C1)C=1C(=NC=2N(C1)N=CC2C=C)C2=CC=C(C=O)C=C2 | C21H15N3O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 4-(3-Ethyl-6-phenylpyrazolo[1,5-a]pyrimidin-5-yl)benzaldehyde | C(C)C=1C=NN2C1N=C(C(=C2)C2=CC=CC=C2)C2=CC=C(C=O)C=C2 | C21H17N3O
